US07700633B2
A solution of 7-methoxy-3,4-dihydro-1H-naphthalene (5.00 g, 28.4 mmol) in MeOH (5 mL) is added to a suspension of NaBH4 (2.8 g, 74 mmol) in MeOH (40 mL) at −20° C. The mixture is stirred at −20° C. for 10 min. Solid NH4Cl is added, and the mixture is concentrated to remove most of the MeOH. The residue is partitioned between EtOAc and, sequentially, aq. NH4Cl and brine. The organic layer is dried over MgSO4 and concentrated to afford 7-methoxy-1,2,3,4-tetrahydronaphthalen-2-ol as a red solid.

reactant | 7-methoxy-3,4-dihydro-1H-naphthalene | 28.4 mmol, 5.00 g | COC1=CC=C2CCCCC2=C1 | C11H14O
reactant | NaBH4 | 74 mmol, 2.8 g | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | MeOH | 5 mL | CO | CH4O
reactant | MeOH | 40 mL | CO | CH4O
product | 7-methoxy-1,2,3,4-tetrahydronaphthalen-2-ol | COC1=CC=C2CCC(CC2=C1)O | C11H14O2
